US07345056B2
Lithium borohydride (17 mg, 0.80 mmol) was added to a solution of 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid ethyl ester (328 mg, 0.80 mmol) in THF (3 mL). The resulting solution was stirred at room temperature for 18 h then heated to 60° C. for 2 h. The reaction was quenched by the addition of water (5 mL) and the resulting mixture was extracted with EtOAc (3×5 mL). The combined organic phases were dried (Na2SO4), filtered, concentrated and purified by silica gel column chromatography (eluant hexane/EtOAc, 9/1 to 1/1) and preparative HPLC to give [12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-dien-10-yl]-methanol as a white solid. Retention time (min)=1.242, method [1], MS(ESI) 368.0 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.73 (d, J=8.2 Hz, 2H), 7.58 (s, 1H), 7.38 (d, J=8.2 Hz, 2H), 5.33 (s, 1H), 4.48 (d, J=7.1 Hz, 1H), 3.41 (d, J=2.7 Hz, 2H), 3.08 (dd, J=17.6, 7.7 Hz, 1H), 2.62 (d, J=17.6 Hz, 1H), 1.81-1.54 (m, 5H).

reactant | Lithium borohydride | 0.80 mmol, 17 mg | [BH4-].[Li+]
reactant | 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid ethyl ester | 0.80 mmol, 328 mg | C(C)OC(=O)C1CC2CC=3NN=CC3C(C1)N2S(=O)(=O)C2=CC=C(C=C2)Cl | C18H20ClN3O4S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | [12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-dien-10-yl]-methanol | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C3=CNN=C3CC1CC(C2)CO | C16H18ClN3O3S
